US06894061B2
1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethylamine
To a stirred solution of 1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethanone (3.2 g, 12.9 mmol) in anhydrous methanol (200 mL) was added solid ammonium acetate (19.8 g, 257 mmol). The reaction mixture was heated at 60° C. for one hour, followed by the addition of a methanolic solution of sodium cyanoborohydride (1.62 g, 25.8 mmol). After 16 hours, the methanol was removed in vacuo and aqueous ammonium hydroxide was added. The aqueous phase was extracted with diethyl ether (3×200 mL) until the amine was no longer present in the aqueous phase. The organic phase was then washed with 2 N aqueous hydrochloric acid (3×100 mL) and the aqueous phases combined. The solid formed during the acid wash was determined to be the dialkyated amine and was segregated from the aqueous phase. Aqueous sodium hydroxide was added to the acidic aqueous phase until the solution was neutralized to pH 8 to 9. The basic aqueous phase was extracted with diethyl ether until the primary amine was no longer detected in the aqueous phase. The combined organic phases were dried over anhydrous sodium sulfate, filtered, and concentrated to afford a clear oil that was used without further purification;

reactant | 1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethanone | 12.9 mmol, 3.2 g | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)=O)F | C14H10ClFO
reactant | ammonium acetate | 257 mmol, 19.8 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 25.8 mmol, 1.62 g | C(#N)[BH3-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethylamine | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)N)F | C14H13ClFN
